### PR TITLE
[Merged by Bors] - feat(Data/Multiset/Antidiagonal): `antidiagonal_add` and `map_swap_antidiagonal`

### PR DESCRIPTION
**Pull request by hawkrobe**
Adds `map_swap_antidiagonal` and `antidiagonal_add`. 

---
Fills out the API parallel to `Multiset.Nat.map_swap_antidiagonal`  and `Finset.map_swap_antidiagonal`. (And adds `@[congr]` to `bind_congr`.)

Used for shuffle-coproduct constructions.

 (#7486, I found this old [Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/antidiagonals.20having.20multiplicity.20.237595/near/238573473))

I used Claude Code to audit and polish.

### CODE REVIEW

File: Mathlib/Data/Multiset/Antidiagonal.lean [hunk 1]
```diff
@@ -91,4 +91,27 @@ theorem card_antidiagonal (s : Multiset α) : card (antidiagonal s) = 2 ^ card s
...
 
+@[simp]
+theorem map_swap_antidiagonal (s : Multiset α) :
+    s.antidiagonal.map Prod.swap = s.antidiagonal := by
+  induction s using Multiset.induction_on with
+  | empty => rfl
+  | cons a s ih =>
+    rw [antidiagonal_cons, map_add, map_map, map_map,
+        ← Prod.map_comp_swap (cons a) id, ← Prod.map_comp_swap id (cons a),
+        ← map_map _ Prod.swap, ← map_map _ Prod.swap, ih]
```
Comment (j-loreaux) [inline Mathlib/Data/Multiset/Antidiagonal.lean]:
```suggestion
      ← Prod.map_comp_swap (cons a) id, ← Prod.map_comp_swap id (cons a),
      ← map_map _ Prod.swap, ← map_map _ Prod.swap, ih]
```

File: Mathlib/Data/Multiset/Antidiagonal.lean [hunk 2]
```diff
@@ -91,4 +91,27 @@ theorem card_antidiagonal (s : Multiset α) : card (antidiagonal s) = 2 ^ card s
...
+    (s + t).antidiagonal =
+      s.antidiagonal.bind fun p ↦
+        t.antidiagonal.map fun q ↦ (p.1 + q.1, p.2 + q.2) := by
+  induction s using Multiset.induction_on with
+  | empty => simp
+  | cons a s ih =>
+    simp_rw [cons_add, antidiagonal_cons, ih, add_bind, bind_map, map_bind, map_map]
+    refine congr_arg₂ (· + ·) ?_ ?_ <;>
+      refine bind_congr fun p _ ↦ map_congr rfl fun q _ ↦ ?_ <;>
+      simp [cons_add]
```
Comment (j-loreaux) [inline Mathlib/Data/Multiset/Antidiagonal.lean]:
```suggestion
    congr! <;> simp
```
This works if you mark `bind_congr` with the `@[congr]` attribute, which I think makes sense anyway.

Comment (hawkrobe) [reply Mathlib/Data/Multiset/Antidiagonal.lean]: ahhhh, ok! 🤯

**Comment by hawkrobe** [comment]
-awaiting-author

added @[congr]!

**Review by j-loreaux — COMMENTED** [review]
bors merge

**Comment by hawkrobe** [comment]
oops, i'm sorry, i stupidly though I had to click 'update branch', that was my mistake!

**Comment by hawkrobe** [comment]
@j-loreaux I apologize, could you re-issue the bors merge?

**Comment by j-loreaux** [comment]
oh, if this kind of thing happens again, please ping someone and we'll get it resolved.

bors merge

**Comment by hawkrobe** [comment]
thanks, apologies again!
